US05851424
0.43 g of N,N'-dicyclohexylcarbodiimide was added within 5 minutes while stirring to a solution of 0.1 g of trans-2,3-dihydroxy-1,4-dioxane, 0.9 g of 4-(4-[8-acryloyloxyoctyloxy]-phenylcarbonyloxy)benzoic acid and 0.05 g of 4-(dimethylamino)-pyridine in 25 ml of dichloromethane. The reaction mixture was stirred overnight, filtered and the filtrate was concentrated. Chromatography of the residue on silica gel with hexane/ethyl acetate (vol. 8:2) and recrystallization from ethyl alcohol of the fractions which were pure according to thin-layer chromatography gave 0.15 g of trans-2,3-bis[4-(4-[8-acryloyloxyoctyloxy]phenylcarbonyloxy)phenylcarbonyloxy]-1,4-dioxane; m.p. (C--N) 98° C. and cl.p. (N--I) 153° C.

reactant | N,N'-dicyclohexylcarbodiimide | 0.43 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | trans-2,3-dihydroxy-1,4-dioxane | 0.1 g | O[C@@H]1OCCO[C@H]1O | C4H8O4
reactant | 4-(4-[8-acryloyloxyoctyloxy]-phenylcarbonyloxy)benzoic acid | 0.9 g | C(C=C)(=O)OCCCCCCCCOC1=CC=C(C=C1)C(=O)OC1=CC=C(C(=O)O)C=C1 | C25H28O7
catalyst | 4-(dimethylamino)-pyridine | 0.05 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | trans-2,3-bis[4-(4-[8-acryloyloxyoctyloxy]phenylcarbonyloxy)phenylcarbonyloxy]-1,4-dioxane | 0.15 g | C(C=C)(=O)OCCCCCCCCOC1=CC=C(C=C1)C(=O)OC1=CC=C(C=C1)C(=O)O[C@@H]1OCCO[C@H]1OC(=O)C1=CC=C(C=C1)OC(=O)C1=CC=C(C=C1)OCCCCCCCCOC(C=C)=O | C54H60O16
